* C:\Users\imprayudi\Documents\workspace\ad8066_filter\ltspice\ad8066_bandpass-filter_sim.asc
XU1 VDD/2 N001 VDD 0 vout AD8066
V1 vin 0 SINE(75e-3 5e-3 1000) AC 1 0
R1 N001 N003 4.6K tol=1 pwr=0.1
R2 vout N001 750K tol=1 pwr=0.1
V2 VDD 0 5
C1 vout N001 210p V=50 Irms=0 Rser=0 Lser=0
C2 N003 vin 18µ V=2.5 Irms=0 Rser=0 Lser=0
R3 VDD N002 10K tol=1 pwr=0.1
R4 N002 0 10K tol=1 pwr=0.1
R5 VDD/2 N002 1K tol=1 pwr=0.1
XU2 VDD/2 vout VDD 0 comp AD8066
C3 N002 0 10µ V=2.5 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM155R60E106ME16" type="X5R"
.ac dec 1000 1 1e6
.lib ADI.lib
.backanno
.end
